US08212041B2
tert-butyl(6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate:
To a solution of nitroethane (1.02 ml, 14.3 mmol) in benzene (50 mL) was added phenyl isocyanate (3.12 ml, 28.5 mmol). The mixture was stirred at 50° C. for twenty minutes followed by the addition of tert-butyl (6-ethynyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (3.00 g, 11.0 mmol) and triethylamine (0.0765 ml, 0.549 mmol). The mixture was stirred at 50° C. for six hours then at room temperature overnight. The mixture was cooled to room temperature, filtered and the resulting brown precipitate was washed with additional benzene. The filtrate was concentrated to yield the product as a black solid. MS m/z=331.1 [M+1]+. Calc'd for C15H18N6O3: 330.1.

reactant | nitroethane | 14.3 mmol, 1.02 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | phenyl isocyanate | 28.5 mmol, 3.12 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | tert-butyl (6-ethynyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 11.0 mmol, 3.00 g | C(#C)C=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C13H15N5O2
reactant | triethylamine | 0.549 mmol, 0.0765 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | tert-butyl(6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | C(C)(C)(C)OC(NCC1=NN=C2N1N=C(C=C2)C2=CC(=NO2)C)=O | C15H18N6O3
